US04975451
Under a nitrogen atmosphere a solution of 130.0 grams (0.5 mole) of 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-2-propen-1-ol and 49.3 grams (0.54 mole) of pyridine in 500 mL of methylene chloride was stirred, and 60.2 grams of thionyl chloride was added dropwise during a 30 minute period. The reaction mixture was maintained at 0° to 10° C. throughout the addition. Upon completion of addition the reaction mixture was stirred for 1 hour and then was diluted with 500 mL of methylene chloride and 500 mL of ice. The mixture was stirred until the ice melted. The organic layer was separated and was in turn washed with two 500 mL portions of aqueous 0.5N hydrochloric acid, two 500 mL portions of an aqueous solution saturated with sodium bicarbonate, two 500 mL portions of water, and two 500 mL portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 113.5 grams of 3-chloro-1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-1-propene.

reactant | 1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-2-propen-1-ol | 0.5 mole, 130.0 grams | C1(CC1)C(C=C)(O)C1=CC=C(C=C1)OC(F)(F)F | C13H13F3O2
reactant | pyridine | 0.54 mole, 49.3 grams | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 60.2 grams | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-1-cyclopropyl-1-(4-trifluoromethoxyphenyl)-1-propene | 113.5 grams | ClCC=C(C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C13H12ClF3O
